US08859536B2
(E)-2-(2-Ethoxyvinyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (100G)
Di(cyclopenta-2,4-dien-1-yl)zirconium(IV) chloride (0.685 g, 2.344 mmol) was added to a solution of 4,4,5,5-tetramethyl-1,3,2-dioxaborolane (5.0 g, 39.1 mmol) in dichloromethane (15 mL) followed by ethoxyethyne (3.01 g, 43.0 mmol) at 0° C., and the mixture was stirred for 16 h at 25° C. Insoluble solids were filtered off, and filtrate was concentrated. Residue was partitioned between ethyl acetate and water. Organic layer was separated, washed with brine, dried over sodium sulphate, filtered and concentrated in vacuo to afford title compound (6.04 g, 78.13%) as oil. 1H NMR (400 MHz, CDCl3): δ 7.04 (d, J=14.0 Hz, 1H), 4.43 (d, J=14.8 Hz, 1H), 3.84 (q, J=7.2 Hz, 2H), 1.32-1.2 (m, 15H).

reactant | 4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 39.1 mmol, 5.0 g | CC1(OBOC1(C)C)C | C6H13BO2
reactant | ethoxyethyne | 43.0 mmol, 3.01 g | C(C)OC#C | C4H6O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
catalyst | Di(cyclopenta-2,4-dien-1-yl)zirconium(IV) chloride | 2.344 mmol, 0.685 g | [Cl-].C1(C=CC=C1)[Zr+2]C1C=CC=C1.[Cl-]
product | (E)-2-(2-Ethoxyvinyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 6.04 g, 78.13% | C(C)O/C=C/B1OC(C(O1)(C)C)(C)C | C10H19BO3
